US06797823B1
N-{4[(6,7-Dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-(2-methoxyphenyl)urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in chloroform (3 ml), and 2-methoxyphenyl isocyanate (27 l) was then added to the solution. The mixture was heated under reflux overnight. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol to give 34 mg (yield 45%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | 2-methoxyphenyl isocyanate | 27 l | COC1=C(C=CC=C1)N=C=O | C8H7NO2
reactant | Methanol | CO | CH4O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4[(6,7-Dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-(2-methoxyphenyl)urea | 34 mg, yield 45% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)OC | C24H22N4O5
